US06812226B2
(i) 2-[4-(2-Oxo-2H-3,1-benzoxazin-1(4H)-yl)piperidin-1-yl]-4-(trifluoromethyl)pyrimidine-5-carboxylic acid
The title compound was prepared from 1-piperidin-4-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one hydrochloride (0.70 g) and 2-chloro-4-(trifluoromethyl)pyrimidine-5-carboxylic acid (1.8 g) using the method of example 115 step (ii). Yield 1.1 g.

reactant | 1-piperidin-4-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one hydrochloride | 0.70 g | Cl.N1CCC(CC1)N1C(OCC2=C1C=CC=C2)=O
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine-5-carboxylic acid | 1.8 g | ClC1=NC=C(C(=N1)C(F)(F)F)C(=O)O | C6H2ClF3N2O2
product | 2-[4-(2-Oxo-2H-3,1-benzoxazin-1(4H)-yl)piperidin-1-yl]-4-(trifluoromethyl)pyrimidine-5-carboxylic acid | O=C1N(C2=C(CO1)C=CC=C2)C2CCN(CC2)C2=NC=C(C(=N2)C(F)(F)F)C(=O)O | C19H17F3N4O4
